US08895544B2
(2-{6-[5-Fluoro-4-hydroxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1H-indazol-3-yl}-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-(4-fluoro-phenyl)-methanone diethylamine salt
The title compound was prepared from 4-fluoro-benzoic acid (24 mg, 168 μmol) and 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol (Preparation 39, 100 mg, 168 μmol) using the method of Example 8. The crude material was purified by HPLC Method A to afford 33.3 mg of the title compound.

reactant | 4-fluoro-benzoic acid | 168 μmol, 24 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | 168 μmol, 100 mg | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | C21H17F4N5O
product | (2-{6-[5-Fluoro-4-hydroxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1H-indazol-3-yl}-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-(4-fluoro-phenyl)-methanone diethylamine salt | 33.3 mg | C(C)NCC.FC=1C(=CC(=C(C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)C(=O)C2=CC=C(C=C2)F)N1)CC(F)(F)F)O | InChI=1S/C28H20F5N5O2.C4H11N/c29-17-4-1-14(2-5-17)27(40)38-8-7-21-23(13-38)35-26(34-21)25-18-6-3-15(9-22(18)36-37-25)19-11-20(30)24(39)10-16(19)12-28(31,32)33;1-3-5-4-2/h1-6,9-11,39H,7-8,12-13H2,(H,34,35)(H,36,37);5H,3-4H2,1-2H3
